US07939528B2
1-Acetyl-5-{[4-(1,3-dioxolan-2-yl)phenyl]oxy}-1H-indazole (835 mg, 2.57 mmol) in 25 mL acetone was treated with MP-TsOH (Argonaut, macroporous polymer supported tosic acid, approximately 200 mg, 0.28 mmol) and stirred for 16 hours. The reaction was filtered and concentrated to provide 4-[(1-acetyl-1H-indazol-5-yl)oxy]benzaldehyde quantitatively, which was used without further purification.

reactant | 1-Acetyl-5-{[4-(1,3-dioxolan-2-yl)phenyl]oxy}-1H-indazole | 2.57 mmol, 835 mg | C(C)(=O)N1N=CC2=CC(=CC=C12)OC1=CC=C(C=C1)C1OCCO1 | C18H16N2O4
reactant | TsOH | 0.28 mmol, approximately 200 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | acetone | 25 mL | CC(=O)C | C3H6O
product | 4-[(1-acetyl-1H-indazol-5-yl)oxy]benzaldehyde | C(C)(=O)N1N=CC2=CC(=CC=C12)OC1=CC=C(C=O)C=C1 | C16H12N2O3
